US08975400B2
3-chloro-4-(3-(trifluoromethyl)phenoxy)benzaldehyde
The title compound was prepared by a procedure similar to that described for D4 starting from 3-chloro-4-fluorobenzaldehyde and 3-(trifluoromethyl)phenol.

reactant | 3-chloro-4-fluorobenzaldehyde | ClC=1C=C(C=O)C=CC1F | C7H4ClFO
reactant | 3-(trifluoromethyl)phenol | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
product | 3-chloro-4-(3-(trifluoromethyl)phenoxy)benzaldehyde | ClC=1C=C(C=O)C=CC1OC1=CC(=CC=C1)C(F)(F)F | C14H8ClF3O2
